US08383639B2
2-(5-(4-Fluorobenzyl)oxazol-2-yl)-3-hydroxy-9,9-dimethyl-6,7-dihydropyrimido[2,1-c][1,4]oxazin-4(9H)-one.
A mixture of 3-(benzyloxy)-N-(3-(4-fluorophenyl)-2-oxopropyl)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.16 g, 0.3337 mmol) and POCl3 (2 mL) in toluene (15 mL) was heated at reflux for 5 h, then cooled, concentrated and the resulting residue taken up in EtOAc (50 mL), washed with water (2×10 mL), brine (10 mL), dried (Na2SO4), filtered and concentrated to give a yellow residue. Purification by preparative HPLC on C18 column using water/MeOH containing 0.1% TFA provided the title as a white solid which was crystallized from MeOH/H2O to afford colorless needles. 1HNMR (500 MHz, CDCl3) δ: 11.04-10.92 (1H, br s), 7.26 (2H, dd, J=8.6, 5.5 Hz), 7.04 (2H, t, J=8.6 Hz), 6.86 (1H, s), 4.10 (2H, s), 4.07-4.02 (4H, m), 1.65 (6H, s). HRMS (M+H) calcd for C19H19N3O4F: 372.1360. found: 372.1356. Anal calcd for C19H18N3O4F: C, 61.45; H, 4.88; N, 11.31. found: C, 61.19; H, 4.74; N, 11.14.

reactant | 3-(benzyloxy)-N-(3-(4-fluorophenyl)-2-oxopropyl)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.3337 mmol, 0.16 g | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NCC(CC1=CC=C(C=C1)F)=O | C26H26FN3O5
reactant | POCl3 | 2 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(5-(4-Fluorobenzyl)oxazol-2-yl)-3-hydroxy-9,9-dimethyl-6,7-dihydropyrimido[2,1-c][1,4]oxazin-4(9H)-one | FC1=CC=C(CC2=CN=C(O2)C=2N=C3C(OCCN3C(C2O)=O)(C)C)C=C1 | C19H18FN3O4
